US07193105B2
1,1,1-Trifluoro-8-phenyl-3,5,7-octatrien-2-one is prepared as outlined in Scheme IIIA. 1,1,1-Trifluoro-8-phenyl-3,5,7-octatrien-2-one is prepared by reacting 5-phenyl-2,4-pentadienal in THF with an equal amount of acetic acid and piperidine followed by addition of 1,1,1-trifluoroacetone at room temperature under nitrogen.

reactant | 5-phenyl-2,4-pentadienal | C1(=CC=CC=C1)C=CC=CC=O | C11H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 1,1,1-trifluoroacetone | FC(C(=O)C)(F)F | C3H3F3O
solvent | THF | C1CCOC1 | C4H8O
product | 1,1,1-Trifluoro-8-phenyl-3,5,7-octatrien-2-one | FC(C(C=CC=CC=CC1=CC=CC=C1)=O)(F)F | C14H11F3O
